US07618990B2
To a solution of 1-methyl-3-acetylpyrrole (4.0 g, 32.5 mmol) in dry dichloromethane (40 mL), under nitrogen at −78° C., was added chlorosulfonyl isocyanate (2.8 mL, 32.5 mmol) dropwise. The reaction warmed to room temperature over 2 h, and was then treated with dimethylformamide (8 mL). After 30 min, the reaction was poured into water, treated with a 1 N sodium carbonate solution (10 mL) and extracted with methylene chloride (2×50 mL). The combined organic layers were washed with water, dried (anhydrous sodium sulfate) and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:hexanes, 3:1 to 1:1) to afford 4-acetyl-1-methyl-1H-pyrrole-2-carbonitrile (2.5 g, 16.87 mmol), which was used without further characterization.

reactant | 1-methyl-3-acetylpyrrole | 32.5 mmol, 4.0 g | CN1C=C(C=C1)C(C)=O | C7H9NO
reactant | chlorosulfonyl isocyanate | 32.5 mmol, 2.8 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 1 N, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-acetyl-1-methyl-1H-pyrrole-2-carbonitrile | 16.87 mmol, 2.5 g | C(C)(=O)C=1C=C(N(C1)C)C#N | C8H8N2O
